US04472305
Condensation of BocPro-DTrp-GlyOH (1.00 g.) and HDTrp-Leu-MetNH2 trifluoroacetate salt (1.10 g.) using dicyclohexylcarbodiimide and N-hydroxysuccinimide gave BocPro-DTrp-Gly-DTrp-Leu-MetNH2 in 36% yield. De-t-butoxycarbonylation of BocPro-DTrp-Gly-DTrp-Leu-MetNH2 (0.68 g.) using trifluoroacetic acid in methyl ethyl sulfide and ethanedithiol gave HPro-DTrp-Gly-DTrp-Leu-MetNH2, which was isolated as the amorphous white solid phosphate (2:3) salt in 59% yield.

reactant | BocPro-DTrp-GlyOH | 1.00 g | N1([C@H](C(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)NCC(=O)O)CCC1)C(=O)OC(C)(C)C | C23H30N4O6
reactant | HDTrp-Leu-MetNH2 trifluoroacetate | 1.10 g | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N.FC(F)(F)C(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
product | BocPro-DTrp-Gly-DTrp-Leu-MetNH2 | 36% yield | N1([C@H](C(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)NCC(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)CCC1)C(=O)OC(C)(C)C | C45H61N9O8S
